US04945177
Into an agitation apparatus with agitator, dropping funnel, gas inlet tube and reflux cooler, under agitation and introduction of nitrogen, 28.8 g (0.6 mol) sodium hydride (as a 50 wt-% suspension in white oil) suspended in 200 ml absolute toluene and 49.9 g (0.3 mol) 2-methoxybenzoic acid methyl ester were introduced. The mixture was heated to 85° C. Within 2 hr, 24.6 g (0.5 mol) absolute acetonitrile was dropped into the heated mixture. Then the reaction mixture was further agitated for 15 hr at 90° C. The mixture was then cooled to 0° C., 300 ml ice water were added carefully under vigorous agitation, and then agitation was continued for 1 hr at 0° C. Then the aqueous phase was removed and extracted with 100 ml toluene. After cooling to 0° C. the aqueous phase was acidified with dilute hydrochloric acid to pH 1. The precipitated product was washed with ice water and dried. The crude product (44 g) was recrystallized from isopropanol; 37.9 g (72% of the theoretical) 2-methoxybenzoylacetonitrile with m.p. 85°-88° were obtained.

reactant | sodium hydride | 0.6 mol, 28.8 g | [H-].[Na+]
reactant | 2-methoxybenzoic acid methyl ester | 0.3 mol, 49.9 g | COC(C1=C(C=CC=C1)OC)=O | C9H10O3
reactant | acetonitrile | 0.5 mol, 24.6 g | C(C)#N | C2H3N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methoxybenzoylacetonitrile | COC1=C(C(=O)CC#N)C=CC=C1 | C10H9NO2
